US06617333B2
Preparation of EKB-569
A 3 L multi-neck flask was equipped with an agitator, thermometer, dip tube, and nitrogen protection. The flask was charged with N-methyl pyrrolidinone (0.77 kg, 0.75 L, d=1.033 g/mL). At ambient temperature, 4-[3-chloro-4-fluorophenyl]amino-6-amino-3-cyano-7-ethoxy quinoline (0.0748 kg) [see, U.S. Pat. No. 6,002,008] was added and the mixture stirred while heating to 40-45° C. and hold for 15 min. The flask was cooled to 0-10° C. The mixture containing 4-N,N-dimethylaminocrotonoyl chloride hydrochloride was transferred via dip tube and positive nitrogen pressure to the 3 L flask over 30-45 min, while maintaining 0-10° C. The mixture was kept at 0-10° C. for a minimum of 2 h. The reaction was checked for completion by HPLC. The reaction is complete when there is ≦2% of the starting material (4-[3-chloro-4-fluorophenyl]amino-6-amino-3-cyano-7-ethoxy quinoline) present. A 12 L multi-neck flask equipped with agitator, thermometer, dip tube, and nitrogen protection was charged with water (2.61 kg, 2.61 L). Sodium bicarbonate (0.209 kg) was added and stirred until a solution was obtained. The solution was cooled to 20-24° C. The NMP-CH3CN mixture was transferred, via dip tube and positive nitrogen pressure, to the 12 L flask over 45-60 min, while maintaining 20-24° C. The mixture was maintained at 20-24° C. for a minimum of 1 h, and filtered on a Buchner funnel, and rinsed with water (3×0.40 kg, 3×0.40 L) with suction being maintained until dripping stops. The product was dried in a vacuum oven at 50° C. and 10 mm Hg for 28-30 h to give 78.5 g (86% yield) of product.

reactant | N-methyl pyrrolidinone | 0.75 L, 0.77 kg | CN1CCCC1=O | C5H9NO
reactant | 4-[3-chloro-4-fluorophenyl]amino-6-amino-3-cyano-7-ethoxy quinoline | 0.0748 kg | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CC(=C(C=C12)N)OCC)C#N | C18H14ClFN4O
reactant | water | 2.61 L, 2.61 kg | O | H2O
reactant | Sodium bicarbonate | 0.209 kg | C([O-])(O)=O.[Na+]
solvent | NMP CH3CN | CN1CCCC1=O.CC#N
product | EKB-569 | 78.5 g, 86% yield | CCOC=1C=C2C(=CC1NC(=O)/C=C/CN(C)C)C(=C(C=N2)C#N)NC=3C=CC(=C(C3)Cl)F | C24H23ClFN5O2
